US07166621B2
Preparation of 2-(5-methoxycarbonyl-3-pyridyloxy)-N-(5-methylhex-3-yn-5-yl)butyramide (Compound No 16 of Table 1)
3-Hydroxy-5-methoxycarbonylpyridine (1.68 g, prepared using the method described in Bull. Acad. Sci. (Chem. Div.), (1976), 598) and 2-bromobromo-N-(5-methylhex-3-yn-5-yl)-butyramide (3.06 g) were dissolved in dry N,N-dimethylformamide (30 ml) containing anhydrous potassium carbonate (2.35 g). The mixture was heated to 70° C. for 3 hours with stirring, cooled to ambient temperature, diluted with water and extracted with diethyl ether (three times). The organic extracts were combined, washed with water (three times), dried over magnesium sulphate and evaporated under reduced pressure to give a brown gum. The gum was fractionated by chromatography (silica; diethyl ether) to give the required product, 2.38 g, as a yellow oil.

reactant | 3-Hydroxy-5-methoxycarbonylpyridine | OC=1C=NC=C(C1)C(=O)OC | C7H7NO3
reactant | 2-bromobromo-N-(5-methylhex-3-yn-5-yl)-butyramide | 3.06 g | BrC(C(=O)NC(C#CCC)(C)C)(CC)Br | C11H17Br2NO
reactant | potassium carbonate | 2.35 g | C([O-])([O-])=O.[K+].[K+]
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 2-(5-methoxycarbonyl-3-pyridyloxy)-N-(5-methylhex-3-yn-5-yl)butyramide | COC(=O)C=1C=C(C=NC1)OC(C(=O)NC(C#CCC)(C)C)CC | C18H24N2O4
